US04352795
A mixture of 10 g of 4-chloro-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine and 100 ml of anhydrous hydrazine is heated under reflux and a nitrogen atmosphere for one hour, evaporated in vacuo, and coevaporated with xylenes. The residue is distributed between a mixture of ethyl acetate and water. The aqueous layer is reextracted with ethyl acetate and the dried ethyl acetate solution is evaporated in vacuo to provide 9.0 of crude product. Purification of this material by silica gel chromatography (ethyl acetate) provides pure 4-hydrazino-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine as a yellow syrup.

reactant | 4-chloro-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine | 10 g | ClC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C32H30ClN3O4
reactant | hydrazine | 100 ml | NN | H4N2
product | 4-hydrazino-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine | N(N)C=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C32H33N5O4
